US04109092
Ruhemann et al. [Chem. Ber. 30, 2022 (1897)] prepared 2-phenyl-4-pyrimidinamine by reacting 4-chloro-2-phenylpyrimidine with ammonia. The 4-chloro-2-phenylpyrimidine had been prepared in two steps by first reacting benzamidine with sodium formylacetate to produce 2-phenyl-4-pyrimidone and then reacting the latter with phosphorus oxychloride.

reactant | 2-phenyl-4-pyrimidinamine | C1(=CC=CC=C1)C1=NC=CC(=N1)N | C10H9N3
reactant | 4-chloro-2-phenylpyrimidine | ClC1=NC(=NC=C1)C1=CC=CC=C1 | C10H7ClN2
reactant | ammonia | N | H3N
reactant | benzamidine | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | sodium formylacetate | C(=O)CC(=O)[O-].[Na+]
product | 2-phenyl-4-pyrimidone | C1(=CC=CC=C1)C1=NC=CC(N1)=O | C10H8N2O
